US06538004B2
4-(4-fluoro-3-iodophenyl)-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione
5-Amino-1-methyl-1,2-dihydropyrazol-3-one (0.06 g, 0.5 mmol), 3-iodo-4-fluorobenzaldehyde (0.125 g, 0.5 mmol), and 4,4-dimethy 1,3-cyclohexanedione (0.07 g, 0.5 mmol) were processed as described in Example 22 to provide 0.15 g (66%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 0.92 (s, 3H), 0.98 (s, 3H), 1.78 (t, 2H), 2.63 (m, 2H), 3.42 (s, 3H), 4.81 (s, 1H), 7.05 (t, 1H), 7.1 (m, 1H), 7.5 (dd, 1H), 9.5 (s, 1H), 9.61 (s, 1H); MS (ESI−) m/z 466 (M−H)31; Anal. calcd for C19H19N3ClO2: C, 48.82;H, 4.07; N, 9.00. Found: C, 48.83;H, 4.20; N, 8.83.

reactant | 5-Amino-1-methyl-1,2-dihydropyrazol-3-one | 0.5 mmol, 0.06 g | NC1=CC(NN1C)=O | C4H7N3O
reactant | 3-iodo-4-fluorobenzaldehyde | 0.5 mmol, 0.125 g | IC=1C=C(C=O)C=CC1F | C7H4FIO
reactant | 4,4-dimethy 1,3-cyclohexanedione | 0.5 mmol, 0.07 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
product | 4-(4-fluoro-3-iodophenyl)-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione | 0.15 g, 66% | FC1=C(C=C(C=C1)C1C2=C(NC=3CCC(C(C13)=O)(C)C)N(NC2=O)C)I | C19H19FIN3O2
